************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_rv32Lib
* Top Cell Name: reg1w1
* View Name:     schematic
* Netlisted on:  Mar 22 10:01:41 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    bit1
* View Name:    schematic
************************************************************************

.SUBCKT bit1 A R W Z
*.PININFO A:I R:I W:I Z:O
XI13 W Wb / inv
XI15 R Rb / inv
XI2 net1 Bit / inv
XI1 net2 net1 / inv
XI14 Bit R Rb Z / trans
XI12 A W Wb net2 / trans
XI16 Bit Wb W net2 / trans
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    dlatch
* View Name:    schematic
************************************************************************

.SUBCKT dlatch D EN Q Qb
*.PININFO D:I EN:I Q:O Qb:O
XI16 D net2 / inv
XI18 ENB1 EN1 / inv
XI17 EN ENB1 / inv
XI20 Q Qb / inv
XI19 net3 Q / inv
XI21 Qb ENB1 EN1 net3 / trans
XI15 net2 EN1 ENB1 net3 / trans
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    reg1w1
* View Name:    schematic
************************************************************************

.SUBCKT reg1w1 CLK D Q Qb RE WE
*.PININFO CLK:I D:I RE:I WE:I Q:O Qb:O
XI0 D RE WE net4 / bit1
XI1 net4 CLK Q Qb / dlatch
.ENDS

